US07504433B2
3-(2-Methyl-4-{1-[5-(4-trifluoromethyl-phenyl)-3-vinyl-thiophen-2-yl]-ethylsulfanyl}-phenyl)-propionic acid methyl ester
The solution of 3-(4-{1-[3-Iodo-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethylsulfanyl}-2-methyl-phenyl)-propionic acid methyl ester (0.195 g, 0.348 mmole) and tributyl(vinyl)tin (0.331 g, 1.04 mmole) in toluene (3 mL) is bubbled with nitrogen gas for 10 minutes. To it is added tetrakis(triphenylphosphine)palladium(0) (0.20 g). The reaction is heated under 80° C. overnight. The mixture is concentrated, loaded to a silica gel column, eluted with ethyl acetate in hexane (0-15%) and concentrated to provide the titled compound as colorless oil.

reactant | 3-(4-{1-[3-Iodo-5-(4-trifluoromethyl-phenyl)-thiophen-2-yl]-ethylsulfanyl}-2-methyl-phenyl)-propionic acid methyl ester | 0.348 mmole, 0.195 g | COC(CCC1=C(C=C(C=C1)SC(C)C=1SC(=CC1I)C1=CC=C(C=C1)C(F)(F)F)C)=O | C24H22F3IO2S2
reactant | tributyl(vinyl)tin | 1.04 mmole, 0.331 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.20 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2-Methyl-4-{1-[5-(4-trifluoromethyl-phenyl)-3-vinyl-thiophen-2-yl]-ethylsulfanyl}-phenyl)-propionic acid methyl ester | COC(CCC1=C(C=C(C=C1)SC(C)C=1SC(=CC1C=C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C26H25F3O2S2
